US05130313
A solution of 5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (2.6 g) in dry N,N-dimethylformamide (10 cc) is added dropwise to a suspension of sodium hydride (0.45 g, 80% suspension in oil) in N,N-dimethylformamide (20 cc). After 15 minutes, stirring, a solution of 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine (3.51 g) in N,N-dimethylformamide (10 cc) is added. The reaction mixture is heated to 80° C. for 90 minutes and is then cooled and poured into a mixture of water (100 cc) and ethyl acetate (200 cc). The organic phase is washed with water, is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.2-0.063-mm particle size, 4-cm diameter, 50-cm height) with ethyl acetate as eluent and with 125-cc fractions being collected. Fractions 2 to 6 are combined and concentrated to dryness under reduced pressure (2.7 kPa). After recrystallization from ethyl acetate, 1-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (3.7 g) is obtained, melting at 120° C.

reactant | 5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 2.6 g | N1S(N2CCCC3=CC=CC1=C23)(=O)=O | C9H10N2O2S
reactant | sodium hydride | 0.45 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine | 3.51 g | ClCCCN1CCC(=CC1)C1=CC=CC=C1 | C14H18ClN
reactant | water | 100 cc | O | H2O
solvent | N,N-dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
product | 1-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 3.7 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C23H27N3O2S
